US04361569
In another process aspect the invention comprises reacting 6-methyl-5-(4-pyridinyl)-2(1H)-pyridinone with excess formaldehyde at an acidic pH to produce 3-hydroxymethyl-6-methyl-5-(4-pyridinyl)-2(1H)-pyridinone.

reactant | 6-methyl-5-(4-pyridinyl)-2(1H)-pyridinone | CC1=C(C=CC(N1)=O)C1=CC=NC=C1 | C11H10N2O
reactant | formaldehyde | C=O | CH2O
product | 3-hydroxymethyl-6-methyl-5-(4-pyridinyl)-2(1H)-pyridinone | OCC=1C(NC(=C(C1)C1=CC=NC=C1)C)=O | C12H12N2O2
